US04405635
1,3-Dihydro-4-(3,4-dimethoxybenzoyl)-2H-imidazol-2-one
To a solution of 6.5 g of 1,3-dihydro-4-methyl-2H-imidazol-2-one and 14.6 g of aluminum chloride in 65 ml of nitrobenzene is added 17.6 g of 3,4-dimethoxybenzoyl chloride in portions. The mixture is stirred for 3 hours at 60° C., cooled and poured over ice water. The gummy solids are filtered and recrystallized twice from ethyl alcohol-water to afford the title compound. M.P. 257°-259° C.

reactant | 1,3-dihydro-4-methyl-2H-imidazol-2-one | 6.5 g | CC=1NC(NC1)=O | C4H6N2O
reactant | aluminum chloride | 14.6 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | 3,4-dimethoxybenzoyl chloride | 17.6 g | COC=1C=C(C(=O)Cl)C=CC1OC | C9H9ClO3
solvent | nitrobenzene | 65 ml | [N+](=O)([O-])C1=CC=CC=C1 | C6H5NO2
product | 1,3-Dihydro-4-(3,4-dimethoxybenzoyl)-2H-imidazol-2-one | COC=1C=C(C(=O)C=2NC(NC2)=O)C=CC1OC | C12H12N2O4
